US04035407
3,4,5-Trichloro-N,N-diethyl-2 (mercapto)benzenesulfonamide
To a mixture of 50 grams (0.15 mole) of 2,3,4,5-tetrachloro-N,N-diethylbenzenesulfonamide in 400 milliliters of methanol at reflux was added over a period of 1/2 hour, a solution of 100 grams (0.42 mole) of sodium sulfide-nonahydrate (Na2S-9H2O) in 400 milliliters of methanol. After the addition was complete, the mixture was refluxed for 3 hours. At the completion of this reaction, the mixture was allowed to cool and the sodium chloride which precipitated, was removed by filtration. The filtrate was diluted with 1 liter of water and the water insoluble materials were removed by filtration. The filtrate was thereafter acidified with concentrated hydrochloric acid and the crude product, a pale yellow solid precipitated out. The product was recovered by filtration, dried and recrystallized from hexane. The 3,4,5-trichloro-N,N-diethyl-2-(mercapto)benzenesulfonamide product was recovered in a yield of 46.0 grams (100 percent of theoretical) and melted at 96°-99° C.

reactant | 2,3,4,5-tetrachloro-N,N-diethylbenzenesulfonamide | 0.15 mole, 50 grams | ClC1=C(C=C(C(=C1Cl)Cl)Cl)S(=O)(=O)N(CC)CC | C10H11Cl4NO2S
reactant | sodium sulfide-nonahydrate | 0.42 mole, 100 grams | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | methanol | 400 milliliters | CO | CH4O
solvent | methanol | 400 milliliters | CO | CH4O
product | 3,4,5-Trichloro-N,N-diethyl-2 (mercapto)benzenesulfonamide | ClC=1C(=C(C=C(C1Cl)Cl)S(=O)(=O)N(CC)CC)S | C10H12Cl3NO2S2
